US08124606B2
Compound 122: (S)-3-((1-(4-chlorophenyl)piperidin-4-yl)methyl)-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one:
1-(4-chlorophenyl)-4-methylenepiperidine (70 mg, 0.337 mmol) was diluted with 0.5M THF solution of 9-BBN (0.674 mL, 0.337 mmol) under nitrogen and stirred at 75° C. for 1 h. The reaction mixture was then added to a suspension of (S)-3-bromo-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one (90 mg, 0.337 mmol), PdCl2(dppf)-CH2Cl2 adduct (8.26 mg, 10.11 μmol) and potassium carbonate (93 mg, 0.674 mmol) in DMF (1.0 mL) and water (0.1 mL) and stirred at 60° C. for 4 h.

reactant | 1-(4-chlorophenyl)-4-methylenepiperidine | 0.337 mmol, 70 mg | ClC1=CC=C(C=C1)N1CCC(CC1)=C | C12H14ClN
reactant | 9-BBN | 0.337 mmol, 0.674 mL | B1C2CCCC1CCC2 | C8H15B
reactant | (S)-3-bromo-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one | 0.337 mmol, 90 mg | BrC1=CC=2NC([C@H]3N(C2N=C1)CCC3)=O | C10H10BrN3O
reactant | potassium carbonate | 0.674 mmol, 93 mg | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 0.5M | C1CCOC1 | C4H8O
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | water | 0.1 mL | O | H2O
catalyst | PdCl2(dppf) CH2Cl2 | 10.11 μmol, 8.26 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | (S)-3-((1-(4-chlorophenyl)piperidin-4-yl)methyl)-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one | ClC1=CC=C(C=C1)N1CCC(CC1)CC1=CC=2NC([C@H]3N(C2N=C1)CCC3)=O | C22H25ClN4O
